US06121271
4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-isopropyl-phenol
At -78° C., to a stirred solution of (2-benzyl-4,5-dimethylthiophen-3-yl)-(4-methoxy-3-isopropyl-phenyl)-methanone (6.48 g, 0.0178 mol) in CH2Cl2 (75 mL) was added dropwise boron tribromide (9.4 mL, 0.099 mol). After the addition was complete the dry ice/acetone bath was removed and the reaction was stirred for 2 h. The reaction was quenched into KH2PO4 (100 mL), extracted with CH2Cl2 and concentrated. Purification on silica gel, eluting with 5% EtOAc/pet. ether, gave 1.67 g (27%) of the title compound as a yellow solid. 1H NMR (DMSO-d6) β 9.49 (s, 1 H), 8.42 (s, 1 H), 7.94 (d, 1 H), 7.47-7.32 (m, 3 H), 7.01 (s, 1 H), 6.93 (s, 2 H), 3.32 (m, 1 H), 2.39 (s, 3 H), 1.59 (s, 3 H), 1.19 (d, 6 H).

reactant | (2-benzyl-4,5-dimethylthiophen-3-yl)-(4-methoxy-3-isopropyl-phenyl)-methanone | 0.0178 mol, 6.48 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C(C)C)C)C | C24H26O2S
reactant | boron tribromide | 0.099 mol, 9.4 mL | B(Br)(Br)Br | BBr3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-isopropyl-phenol | 1.67 g, 27% | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C=C2)O)C(C)C)C | C23H22OS
